US08871756B2
2-Chloro-6-methylquinazolin-4-amine
A mixture of 2,4-dichloro-6-methylquinazoline (500 mg, 2.348 mmol) and a solution of ammonia in tetrahydrofuran (20 mL, 3.0 M) was stirred in an ice-bath for 2 hours. The resulting mixture was concentrated in vauco to afford 454 mg of the crude product as a white solid.

reactant | 2,4-dichloro-6-methylquinazoline | 2.348 mmol, 500 mg | ClC1=NC2=CC=C(C=C2C(=N1)Cl)C | C9H6Cl2N2
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | 3.0 M, 20 mL | O1CCCC1 | C4H8O
product | 2-Chloro-6-methylquinazolin-4-amine | 454 mg | ClC1=NC2=CC=C(C=C2C(=N1)N)C | C9H8ClN3
